US08957205B2
1-[[[4-(4-Morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester
30 ml of morpholine was added to 4 g (13 mmol) of 1-[[[4-(chloromethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester, and the mixture was refluxed under heating for 1 hour. The reaction solution was distilled off under reduced pressure, a saturated aqueous sodium bicarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, diethyl ether was added to the residue, and the mixture was stirred overnight. The precipitated solid was collected by filtration to obtain 3.8 g (83%) of the title compound.

reactant | 1-[[[4-(chloromethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 13 mmol, 4 g | COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CCl | C16H20ClNO3
reactant | morpholine | 30 ml | N1CCOCC1 | C4H9NO
product | 1-[[[4-(4-Morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 3.8 g, 83% | COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CN1CCOCC1 | C20H28N2O4
